US07125896B2
d) 5-Iodo-2-pyrrolidin-1-yl pyridine
Pyrrolidine (1.74 ml) was added to 2-chloro-5-iodopyridine (1 g) in dimethylacetamide (5 ml) and the solution heated at 120° C. for 4 h. After cooling, the reaction mixture was poured into water (60 ml) and the solid precipitate collected by filtration. Recrystallisation from ethyl acetate gave the product as off-white needles (0.33 g); the remaining material was adsorbed onto silica and purified by column chromatography eluting with 0 to 3% ethyl acetate in hexane to give a white solid (0.65 g).

reactant | Pyrrolidine | 1.74 ml | N1CCCC1 | C4H9N
reactant | 2-chloro-5-iodopyridine | 1 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | water | 60 ml | O | H2O
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 5-Iodo-2-pyrrolidin-1-yl pyridine | 0.33 g | IC=1C=CC(=NC1)N1CCCC1 | C9H11IN2
